US07652022B2
1-[4-(6-Chloro-pyrimidin-4-ylmethyl)-phenyl]-3-(4-ethyl-phenyl)-urea
A 4 N solution of HCl in dioxane (1.2 mL, 4.96 mmol, 30 equiv) is added to a solution of [4-(6-chloro-pyrimidin-4-ylmethyl)-phenyl]-carbamic acid tert-butyl ester (50 mg, 0.156 mmol) in CH2Cl2 (0.67 mL), under an argon atmosphere. The resulting white suspension is stirred at rt for 4 h and concentrated in vacuo to afford 50.9 mg of crude 4-(6-chloro-pyrimidin-4-ylmethyl)-phenylamine as a white solid. DIEA (80 μL, 0.454 mmol, 2 equiv) is added to a suspension of crude 4-(6-chloro-pyrimidin-4-ylmethyl)-phenylamine (50 mg, 0.227 mmol) in THF (0.4 mL), under an argon atmosphere. 4-Ethyl-phenyl-isocyanate (40 μL, 0.250 mmol, 1.1 equiv) is then added. The resulting yellow solution is stirred at rt for 2 h and concentrated in vacuo. The residue is purified by silica gel (20 g) column chromatography (CH2Cl2/MeOH, 98/2). A second purification affords the title compound as a white solid: ES-MS: 367.0 [M+H]+; single peak at tR=8.94 min (System 2); Rf=0.32 (CH2Cl2/MeOH, 95/5).

reactant | DIEA | 0.454 mmol, 80 μL, 2 equiv | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-(6-chloro-pyrimidin-4-ylmethyl)-phenylamine | 0.227 mmol, 50 mg | ClC1=CC(=NC=N1)CC1=CC=C(C=C1)N | C11H10ClN3
reactant | 4-Ethyl-phenyl-isocyanate | 0.250 mmol, 40 μL, 1.1 equiv | C(C)C1=CC=C(C=C1)N=C=O | C9H9NO
solvent | THF | 0.4 mL | C1CCOC1 | C4H8O
product | 1-[4-(6-Chloro-pyrimidin-4-ylmethyl)-phenyl]-3-(4-ethyl-phenyl)-urea | ClC1=CC(=NC=N1)CC1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)CC | C20H19ClN4O
